US05608109
Production of 2-[2-(2-propynylthio)-1-phenylethyl]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide (compound No. 344)
In 10 ml of methanol was suspended 0.50 g (1.2 mmoles) of 2-[2-(2-propynylthio)-1-phenylethylidene]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide, and 0.37 g (4.7 mmoles) of sodium cyanoborohydride was added to the resulting suspension. The resulting mixture was adjusted to pH 4 to 6 with a methanolic solution of hydrogen chloride at room temperature and subjected to reaction.

reactant | 2-[2-(2-propynylthio)-1-phenylethylidene]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide | 1.2 mmoles, 0.50 g | C(C#C)SCC(C1=CC=CC=C1)=NNC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C19H16F3N3O2S
reactant | sodium cyanoborohydride | 4.7 mmoles, 0.37 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 2-[2-(2-propynylthio)-1-phenylethyl]-N-(4-trifluoromethoxyphenyl)hydrazinecarboxamide | C(C#C)SCC(C1=CC=CC=C1)NNC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C19H18F3N3O2S
